US04980356
The procedure is as in Example 21, starting with 2-amino-6-trifluoromethoxybenzothiazole (9.4 g), N,N-diethylchloroacetamide (12 g) and sodium iodide (13.5 g) in methyl ethyl ketone (30 cc). The mixture is heated for 16 hours to boiling and then cooled to a temperature in the region of 20° C. The reaction medium is added to distilled water (100 cc), treated with IN sodium hydroxide (50 cc) and then extracted with ethyl acetate (150 cc). After drying over magnesium sulphate and then concentrating to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa), the residue is purified by chromatography on a silica column with ethyl acetate as eluent. N,N-Diethyl-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)acetamide (4.2 g) is obtained, which product is converted to a hydrochloride, m.p. 223° C.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | N,N-diethylchloroacetamide | 12 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | sodium iodide | 13.5 g | [I-].[Na+]
solvent | methyl ethyl ketone | 30 cc | C(C)C(=O)C | C4H8O
product | N,N-Diethyl-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)acetamide | 4.2 g | C(C)N(C(CN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N)=O)CC | C14H16F3N3O2S
